US07008618B1
Preparation of N-[3-(dimethylamino)propyl]methacrylamide 1-chloromethylnaphthalene quaternary salt (DMAPMA.MNQ).
A 100 ml flask is charged with 1-chloromethyl naphthalene (7.06 g, 40 mmol), DMAPMA (7.48 g, 44 mmol), MEHQ (0.1 g) and acetone (50 ml). The mixture is heated at reflux for 4 hours. The solvent is then removed under vacuum and the resulting gooey DMAPMA.MNQ solidifies upon standing at room temperature.

reactant | 1-chloromethyl naphthalene | 40 mmol, 7.06 g | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
reactant | DMAPMA | 44 mmol, 7.48 g | CC(=C)C(=O)NCCCN(C)C | C9H18N2O
reactant | MEHQ | 0.1 g | COC1=CC=C(C=C1)O | C7H8O2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-[3-(dimethylamino)propyl]methacrylamide 1-chloromethylnaphthalene | ClCC1=CC=CC2=CC=CC=C12.CN(CCCNC(C(=C)C)=O)C | InChI=1S/C11H9Cl.C9H18N2O/c12-8-10-6-3-5-9-4-1-2-7-11(9)10;1-8(2)9(12)10-6-5-7-11(3)4/h1-7H,8H2;1,5-7H2,2-4H3,(H,10,12)
